* NGSPICE file created from mult4_SARSA_WInd_e9_SARSA_RUIDO_e9_SARSA_RUIDO_e9_SARSA_RUIDO_e9.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_2 abstract view
.subckt sky130_fd_sc_hd__xnor2_2 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_1 abstract view
.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand4_2 abstract view
.subckt sky130_fd_sc_hd__nand4_2 A B C D VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2b_1 abstract view
.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4_1 abstract view
.subckt sky130_fd_sc_hd__and4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand4_1 abstract view
.subckt sky130_fd_sc_hd__nand4_1 A B C D VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21bo_1 abstract view
.subckt sky130_fd_sc_hd__a21bo_1 A1 A2 B1_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand3b_1 abstract view
.subckt sky130_fd_sc_hd__nand3b_1 A_N B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a2bb2o_1 abstract view
.subckt sky130_fd_sc_hd__a2bb2o_1 A1_N A2_N B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21o_1 abstract view
.subckt sky130_fd_sc_hd__a21o_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211a_1 abstract view
.subckt sky130_fd_sc_hd__o211a_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand3_2 abstract view
.subckt sky130_fd_sc_hd__nand3_2 A B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or4b_1 abstract view
.subckt sky130_fd_sc_hd__or4b_1 A B C D_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand3_1 abstract view
.subckt sky130_fd_sc_hd__nand3_1 A B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a31o_1 abstract view
.subckt sky130_fd_sc_hd__a31o_1 A1 A2 A3 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o221ai_4 abstract view
.subckt sky130_fd_sc_hd__o221ai_4 A1 A2 B1 B2 C1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21a_1 abstract view
.subckt sky130_fd_sc_hd__o21a_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

.subckt mult4_SARSA_WInd_e9_SARSA_RUIDO_e9_SARSA_RUIDO_e9_SARSA_RUIDO_e9 A[0] A[1]
+ A[2] A[3] B[0] B[1] B[2] B[3] P[0] P[1] P[2] P[3] P[4] P[5] P[6] P[7] VGND VPWR
X_83_ _30_ _33_ VGND VGND VPWR VPWR _34_ sky130_fd_sc_hd__xnor2_2
X_49_ net5 net3 VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__and2_1
X_66_ net6 net3 _17_ VGND VGND VPWR VPWR _18_ sky130_fd_sc_hd__and3_1
X_82_ _15_ _17_ VGND VGND VPWR VPWR _33_ sky130_fd_sc_hd__xor2_1
X_65_ net6 net5 net4 net3 VGND VGND VPWR VPWR _17_ sky130_fd_sc_hd__nand4_2
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_48_ _01_ net6 VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__and2b_1
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput10 net10 VGND VGND VPWR VPWR P[1] sky130_fd_sc_hd__buf_2
X_81_ _15_ _17_ VGND VGND VPWR VPWR _32_ sky130_fd_sc_hd__nand2_1
XFILLER_9_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_47_ net6 net5 net1 net2 VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__and4_1
X_64_ net1 net8 _01_ _15_ VGND VGND VPWR VPWR _16_ sky130_fd_sc_hd__nand4_1
XFILLER_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_6_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xoutput9 net9 VGND VGND VPWR VPWR P[0] sky130_fd_sc_hd__buf_2
Xoutput11 net11 VGND VGND VPWR VPWR P[2] sky130_fd_sc_hd__buf_2
X_80_ _15_ _17_ VGND VGND VPWR VPWR _31_ sky130_fd_sc_hd__nor2_1
X_63_ net1 net2 net8 net7 VGND VGND VPWR VPWR _15_ sky130_fd_sc_hd__nand4_2
XFILLER_3_48 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_9_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_46_ _00_ VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__inv_2
XFILLER_6_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xoutput12 net12 VGND VGND VPWR VPWR P[3] sky130_fd_sc_hd__buf_2
X_62_ _11_ _12_ _08_ VGND VGND VPWR VPWR _14_ sky130_fd_sc_hd__a21bo_1
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_45_ net5 net1 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__nand2_1
Xoutput13 net13 VGND VGND VPWR VPWR P[4] sky130_fd_sc_hd__buf_2
X_61_ _08_ _11_ _12_ VGND VGND VPWR VPWR _13_ sky130_fd_sc_hd__nand3b_1
XFILLER_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_4_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xoutput14 net14 VGND VGND VPWR VPWR P[5] sky130_fd_sc_hd__buf_2
X_60_ _04_ _09_ _10_ _03_ VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__a2bb2o_1
Xoutput15 net15 VGND VGND VPWR VPWR P[6] sky130_fd_sc_hd__buf_2
XFILLER_6_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_73 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xoutput16 net16 VGND VGND VPWR VPWR P[7] sky130_fd_sc_hd__buf_2
XFILLER_7_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_76 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_65 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_44 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_4_56 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_97_ _28_ _44_ VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__and2_1
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput1 A[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__dlymetal6s2s_1
XFILLER_1_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_67 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xinput2 A[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__buf_1
X_96_ _20_ _26_ _27_ VGND VGND VPWR VPWR _44_ sky130_fd_sc_hd__a21o_1
X_79_ _08_ _29_ net8 net3 VGND VGND VPWR VPWR _30_ sky130_fd_sc_hd__o211a_1
XFILLER_7_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_7_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_7_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_95_ _39_ _42_ _43_ VGND VGND VPWR VPWR net16 sky130_fd_sc_hd__a21o_1
Xinput3 A[2] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__dlymetal6s2s_1
XFILLER_1_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_78_ net8 net4 VGND VGND VPWR VPWR _29_ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_77_ _25_ _28_ VGND VGND VPWR VPWR net13 sky130_fd_sc_hd__xnor2_1
Xinput4 A[3] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__buf_1
X_94_ _08_ _41_ _29_ VGND VGND VPWR VPWR _43_ sky130_fd_sc_hd__a21oi_1
XFILLER_7_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_93_ _39_ _42_ VGND VGND VPWR VPWR net15 sky130_fd_sc_hd__xor2_1
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput5 B[0] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__buf_1
X_76_ _20_ _26_ _27_ VGND VGND VPWR VPWR _28_ sky130_fd_sc_hd__nand3_2
X_59_ _02_ _04_ _09_ _10_ VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__or4b_1
X_92_ _40_ _41_ VGND VGND VPWR VPWR _42_ sky130_fd_sc_hd__xnor2_1
Xinput6 B[1] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__dlymetal6s2s_1
X_75_ _02_ _06_ _05_ VGND VGND VPWR VPWR _27_ sky130_fd_sc_hd__a21o_1
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_58_ net6 net4 VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__and2_1
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_91_ _30_ _32_ _31_ VGND VGND VPWR VPWR _41_ sky130_fd_sc_hd__a21oi_1
XFILLER_4_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_6_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_74_ _16_ _19_ _18_ VGND VGND VPWR VPWR _26_ sky130_fd_sc_hd__a21o_1
XFILLER_4_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput7 B[2] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__buf_1
X_57_ net2 net8 VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__nand2_1
X_90_ net8 net4 _08_ VGND VGND VPWR VPWR _40_ sky130_fd_sc_hd__and3_1
X_73_ _22_ _24_ VGND VGND VPWR VPWR _25_ sky130_fd_sc_hd__nor2_1
Xinput8 B[3] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__clkbuf_2
X_56_ net7 net3 VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__nand2_1
X_72_ _13_ _14_ _21_ VGND VGND VPWR VPWR _24_ sky130_fd_sc_hd__a21oi_1
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_55_ _03_ _07_ VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__xnor2_1
XFILLER_8_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_75 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_71_ _13_ _14_ _21_ VGND VGND VPWR VPWR _23_ sky130_fd_sc_hd__nand3_1
X_54_ _05_ _06_ VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__and2b_1
XFILLER_2_65 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_70_ _13_ _14_ _21_ VGND VGND VPWR VPWR _22_ sky130_fd_sc_hd__and3_1
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_53_ net6 net2 _00_ _04_ VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__a31o_1
XFILLER_2_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_2_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_52_ net6 net2 _00_ _04_ VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__and4_1
XFILLER_2_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_5_67 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_51_ net1 net7 VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__and2_1
XFILLER_8_67 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_5_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_47 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_50_ net5 net3 VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__nand2_1
XFILLER_8_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_5_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_2_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_59 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_5_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_17 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_89_ _28_ _34_ _35_ _23_ _36_ VGND VGND VPWR VPWR _39_ sky130_fd_sc_hd__o221ai_4
XFILLER_5_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_88_ _37_ _38_ VGND VGND VPWR VPWR net14 sky130_fd_sc_hd__xnor2_1
XFILLER_8_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_7_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_87_ _24_ _28_ _23_ VGND VGND VPWR VPWR _38_ sky130_fd_sc_hd__o21a_1
XFILLER_3_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_9_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_86_ _35_ _36_ VGND VGND VPWR VPWR _37_ sky130_fd_sc_hd__and2b_1
XFILLER_0_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_69_ _18_ _19_ _16_ VGND VGND VPWR VPWR _21_ sky130_fd_sc_hd__a21bo_1
XFILLER_9_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_85_ _11_ _13_ _34_ VGND VGND VPWR VPWR _36_ sky130_fd_sc_hd__a21o_1
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_3_65 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_9_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_68_ _16_ _18_ _19_ VGND VGND VPWR VPWR _20_ sky130_fd_sc_hd__nand3_1
XFILLER_6_65 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_6_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_84_ _11_ _13_ _34_ VGND VGND VPWR VPWR _35_ sky130_fd_sc_hd__and3_1
X_67_ net1 net8 _15_ _01_ VGND VGND VPWR VPWR _19_ sky130_fd_sc_hd__a31o_1
XFILLER_9_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_78 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

